US04618712
cis-1,4-Bis-(N-acetyl-N-cyanoamino)-but-2-ene
25.0 g (0.2 mol) of cis-1,4-dichlorobut-2-ene and 46.7 g (0.4 mol+10% excess) of sodium acetylcyanamide are reacted in 80 ml of dimethylacetamide at 70°-88° C. for 4 hours. The reaction mixture is then filtered with suction, the filtrate is introduced into 400 g of ice and the resulting suspension is filtered. The residue is dried over phosphorus pentoxide at room temperature under 0.13 mbar to give 29.4 g (66.7% of theory) of the desired compound, which has a melting point of 73.8°-75.2° C.

reactant | cis-1,4-dichlorobut-2-ene | 0.2 mol, 25.0 g | ClC\C=C/CCl | C4H6Cl2
reactant | sodium acetylcyanamide | 0.4 mol, 46.7 g | C(C)(=O)NC#N.[Na]
solvent | dimethylacetamide | 80 ml | CC(=O)N(C)C | C4H9NO
product | cis-1,4-Bis-(N-acetyl-N-cyanoamino)-but-2-ene | C(C)(=O)N(C#N)C\C=C/CN(C(C)=O)C#N | C10H12N4O2
